US07544697B2
A mixture of 1-ethyl-5-(2-methylprop-1-enyl)-1H-pyrazole-3-carboxamide (5.0 g, 25.9 mmol) and phosphorous oxychloride (18.5 mL) was heated at 90° C. for 20 minutes. The reaction vessel was cooled in an ice bath and reaction mixture was poured over ice (100 mL). The quenched reaction mixture was made basic with 2 M aqueous sodium carbonate and was extracted with chloroform. The organic layers were dried over sodium sulfate, filtered, and concentrated under reduced pressure to provide 1-ethyl-5-(2-methylprop-1-enyl)-1H-pyrazole-3-carbonitrile, all of which was used in the next step.

reactant | 1-ethyl-5-(2-methylprop-1-enyl)-1H-pyrazole-3-carboxamide | 25.9 mmol, 5.0 g | C(C)N1N=C(C=C1C=C(C)C)C(=O)N | C10H15N3O
reactant | phosphorous oxychloride | 18.5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium carbonate | 2 M | C([O-])([O-])=O.[Na+].[Na+]
product | 1-ethyl-5-(2-methylprop-1-enyl)-1H-pyrazole-3-carbonitrile | C(C)N1N=C(C=C1C=C(C)C)C#N | C10H13N3
